US09056859B2
[4-(1H-tetrazol-1-yl)-2-(trifluoromethyl)phenyl]acetic acid was prepared in a similar fashion to that described for the synthesis of [2-methyl-4-(1H-tetrazol-1-yl)phenyl]acetic acid starting from [4-amino-2-(trifluoromethyl)phenyl]acetic acid. LC-MS (IE, m/z): 273 [M+1]+.

reactant | [2-methyl-4-(1H-tetrazol-1-yl)phenyl]acetic acid | CC1=C(C=CC(=C1)N1N=NN=C1)CC(=O)O | C10H10N4O2
reactant | [4-amino-2-(trifluoromethyl)phenyl]acetic acid | NC1=CC(=C(C=C1)CC(=O)O)C(F)(F)F | C9H8F3NO2
product | [4-(1H-tetrazol-1-yl)-2-(trifluoromethyl)phenyl]acetic acid | N1(N=NN=C1)C1=CC(=C(C=C1)CC(=O)O)C(F)(F)F | C10H7F3N4O2
